US07807469B2
HPLC/ESI/MS/MS Determination of Gossypol
The mass spectrometer was a Micromass Quattro Ultima LC/MS/MS detector by Waters, and contained a triple quadrupole mass spectrometer with negative electrospray ionization. Because the HPLC did not provide the correct ionization matrix for negative electrospray ionization of the dianilino-gossypol, 0.6% NH4OH in methanol was introduced past the HPLC column at a flow rate of 0.05 mL/minute. Post-column mixing of the NH4OH in MeOH with the HPLC eluant was achieved using a mixing T-connection. In MS/MS mode, the first quadrupole was used to select 667.3 as the mass to charge ratio that represented the negative ion of dianilino-gossypol. In the second quadrupole, the 667.3 mass to charge ratio was fragmented in a collision cell. The third quadrupole was used to select the fragment ion, monoanilino-gossypol, which had a mass to charge ratio of 574.2 as a result of the loss of an aniline. Detection of the second fragment ion provides improved specificity and increased signal to noise ratios.

reactant | NH4OH | [NH4+].[OH-]
reactant | monoanilino-gossypol | CC1=C(C(=C\2C(=C1)C(=C(C(=O)/C2=C\NC3=CC=CC=C3)O)C(C)C)O)C4=C(C=C5C(=C4O)C(=C(C(=C5C(C)C)O)O)C=O)C | C36H35NO7
solvent | MeOH | CO | CH4O
product | Gossypol | CC1=CC=2C(=C(C(=C(C2C(C)C)O)O)C=O)C(=C1C=3C(=CC4=C(C3O)C(=C(C(=C4C(C)C)O)O)C=O)C)O | C30H30O8
